US09023843B2
(4-Bromo-2-nitro-phenoxy)-acetic acid ethyl ester
To a solution of 4-bromo-2-nitro-phenol (3.28 g, 15.0 mmol, 1 equiv) in dimethylformamide (40 mL) at 23° C. was added potassium carbonate (4.14 g, 30 mmol, 2 equiv) followed by ethyl bromoacetate (1.84 mL, 16.6 mmol, 1.1 equiv). The resulting mixture was warmed to 60° C. (oil bath) for 90 min then cooled to 23° C. The reaction mixture was partitioned between ethyl acetate:heptane (1:1) and water (100 mL each). The organic layer was separated and washed successively with water, saturated brine solution (100 ml, each) then dried (MgSO4), filtered and concentrated to give 4.50 g (11.5 mmol, 77%) of the product as a yellow oil.

reactant | 4-bromo-2-nitro-phenol | 15.0 mmol, 3.28 g, 1 equiv | BrC1=CC(=C(C=C1)O)[N+](=O)[O-] | C6H4BrNO3
reactant | potassium carbonate | 30 mmol, 4.14 g, 2 equiv | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromoacetate | 16.6 mmol, 1.84 mL, 1.1 equiv | BrCC(=O)OCC | C4H7BrO2
solvent | dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
product | (4-Bromo-2-nitro-phenoxy)-acetic acid ethyl ester | 11.5 mmol, 4.50 g, 77% | C(C)OC(COC1=C(C=C(C=C1)Br)[N+](=O)[O-])=O | C10H10BrNO5
